US05977133
A sample of 2-(4-chloro-5-fluoro-3-methyl-2-pyridinyl)cyclopropaneacetonitrile (3.26 g, 14.51 mmol) was dissolved in 10 mL of ethanol, and gaseous HCl was introduced until 4 g had been dissolved. The solution was heated to reflux, and 0.36 mL of water was added, then the mixture was stirred for 1 hour. The reaction was cooled, then poured into water, and the mixture was adjusted to pH7 with NaHCO3. The mixture was then extracted with methylene chloride, which was washed with water, dried over MgSO4 and concentrated. The residue was triturated with 1:4 ethyl acetate:hexane, and filtered. The filtrate was concentrated and the residue was purified by flash chromatography with 1:4 ethyl acetate:hexane to give 2.262 g of ethyl 2-(4-chloro-5-fluoro-3-methyl-2-pyridinyl)cyclopropaneacetate after removal of the solvent. MS 272, 274 (M+H)+ ; 1H NMR (CDCl3)∂: 0.12 (m, 1H), 0.38 (m, 1H), 0.53 (m, 1H), 0.76 (m, 1H), 1.20 (t, 3H, J=7 Hz), 1.67 (m, 1H), 2.40 (s, 3H), 3.23 (d, 1H, J=9 Hz), 4.16 (q, 2H, J=7 Hz), 8.36 (s, 1H).

reactant | 2-(4-chloro-5-fluoro-3-methyl-2-pyridinyl)cyclopropaneacetonitrile | 14.51 mmol, 3.26 g | ClC1=C(C(=NC=C1F)C1C(C1)CC#N)C | C11H10ClFN2
reactant | HCl | Cl | ClH
reactant | water | 0.36 mL | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl 2-(4-chloro-5-fluoro-3-methyl-2-pyridinyl)cyclopropaneacetate | 2.262 g | ClC1=C(C(=NC=C1F)C1C(C1)CC(=O)OCC)C | C13H15ClFNO2
